US04332820
2-(4-(Methylsulfonyl)phenoxy)-5-nitrobenzonitrile
To a slurry of 10.0 g (0.0350 moles) of 2-(4-(methylthio)phenoxy)-5-nitrobenzonitrile in 75 ml of glacial acetic acid heated at 60° C. was added 15.85 g of aqueous 30% hydrogen peroxide (0.140 moles) over 5 minutes. An additional 25 ml of glacial acetic acid was added and the mixture heated at 75° C. for 3 hrs. The reaction mixture was cooled and poured into water. The product was collected by filtration, washed with water and dried to obtain 10.9 g of product (98.2% yield), mp 205°-206.5° C. Recrystallization from methanol gave purified 2-(4-(methylsulfonyl)phenoxy)-5-nitrobenzonitrile, mp 206°-207° C.

reactant | 2-(4-(methylthio)phenoxy)-5-nitrobenzonitrile | 0.0350 moles, 10.0 g | CSC1=CC=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=C1 | C14H10N2O3S
reactant | hydrogen peroxide | 0.140 moles | OO | H2O2
reactant | water | O | H2O
reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-(4-(Methylsulfonyl)phenoxy)-5-nitrobenzonitrile | 10.9 g, 98.2% yield | CS(=O)(=O)C1=CC=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=C1 | C14H10N2O5S
